US07820665B2
Step 1. N-(6-bromo-1H-benzo[d]imidazol-2-yl)acetamide
To a 250 mL round-bottomed flask was added 6-bromo-1H-benzo[d]imidazol-2-amine (2.00 g, 9.43 mmol, Carbocore, The Woodlands, Tex.), DCM (100 mL), pyridine (1.0 mL, 12.3 mmol) and acetic anhydride (0.979 mL, 10.4 mmol). The mixture was stirred at 25° C. for 18 h. The solution was concentrated and then diluted with 10% MeOH (2M in NH3)/CH2Cl2 until homogeneous and then the solution was concentrated onto silica. Purification by silica gel chromatography (0.5 to 5.0% MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as a white solid (0.676 g, 28%). MS (ESI, positive ion) m/z: 254 (M(79Br)+1).

reactant | 6-bromo-1H-benzo[d]imidazol-2-amine | BrC=1C=CC2=C(NC(=N2)N)C1 | C7H6BrN3
reactant | pyridine | 12.3 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 10.4 mmol, 0.979 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(6-bromo-1H-benzo[d]imidazol-2-yl)acetamide | 0.676 g, 28% | BrC=1C=CC2=C(NC(=N2)NC(C)=O)C1 | C9H8BrN3O
